* C:\Users\aaron\OneDrive\Desktop\repos\Monitoring_System\Hardware_Filter_SSS\Hardware_Filter_Simulation.asc
V1 5V 0 5V
V2 -5V 0 -5V
R1 E23 0 30.1k
R4 N001 0 25.5k
R2 N006 E23 20k
R5 N001 P001 187k
C11 N001 N006 .002µF
R3 N002 N001 17k
R9 N004 N002 10k
R10 N004 N012 1Meg
R6 5V N013 22k
R8 -5V N014 22k
XU7 N013 N014 N012 potentiometer Rtot=20K wiper=.5
R11 N009 0 4.7k
C1 P001 0 0.1µF
R12 N005 N004 10k
R13 N010 T/P-1 80.6k
C2 N003 N010 0.1µF
R14 N011 N010 80.6k
R16 0 N008 10k
R15 N008 N003 1.82k
C7 N011 0 0.1µF
R17 N008 N015 80.6k
C3 T/P-2 N015 0.1µF
R25 T/P-2 1x 16.2k
R27 1x 0 20k
R24 N016 0 10k
R23 N016 N019 1Meg
XU21 N018 N020 N019 potentiometer Rtot=20K wiper=.3675
R20 5V N018 4.7k
R22 N020 -5V 10k
R18 N017 N015 80.6k
C4 N017 0 0.1µF
D1 N007 N005 1N914
V3 E23 0 SINE(0 1 60)
XU1 N006 N001 5V -5V N002 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 N009 N004 5V -5V N007 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N005 T/P-1 5V -5V T/P-1 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU4 N011 N008 5V -5V N003 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU5 N017 N016 5V -5V T/P-2 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R19 T/P-2 N016 3.65k
.model D D
.lib C:\Users\aaron\AppData\Local\LTspice\lib\cmp\standard.dio
.SUBCKT potentiometer 1 2 3
.param w=limit(wiper,1m,.999)
R0 1 3 {Rtot*(1-w)}
R1 3 2 {Rtot*(w)}
.ENDS
* (AC Only)
;ac dec 1000 1 100
.tran 200m
.lib UniversalOpAmp3a.lib
.backanno
.end
